* File: inversorp4.pex.netlist.pex
* Created: Tue Jul  4 17:45:47 2023
* Program "Calibre xRC"
* Version "v2006.2_16.16"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVERSORP4_OUT 1 2 3 4 10 11 12
c13 11 0 0.0586196f
c14 10 0 0.0711385f
c15 4 0 0.134721f
c16 3 0 0.106755f
r17 11 12 1.07143 
r18 11 8 0.0699738 
r19 8 10 0.432 
r20 7 10 0.144 
r21 3 7 0.0699738 
r22 3 4 0.282857 
r23 2 12 10.7143 
r24 1 4 20 
.ends

.subckt PM_INVERSORP4_IN 9 10 14 20 26 28
c18 20 0 0.128812f
c19 10 0 0.0820781f
c20 9 0 0.15408f
r21 26 28 0.0430286 
r22 20 28 10 
r23 17 20 7.92 
r24 13 17 2.75 
r25 13 14 211.357 
r26 9 17 2.75 
r27 9 10 86.4286 
.ends

.subckt PM_INVERSORP4_VSS 3 4 5 10
c7 10 0 0.145674f
c8 5 0 0.179645f
r9 5 10 0.0825 
r10 4 5 30 
r11 3 5 20 
.ends

.subckt PM_INVERSORP4_VDD 2 3 5 7
c12 2 0 28.9973f
r13 5 7 0.4875 
r14 3 7 10.7143 
r15 2 7 7.14286 
.ends

